// Generated for: spectre
// Generated on: Oct 10 22:48:25 2017
// Design library name: tsmc_resistances_test
// Design cell name: resistances_test
// Design view name: schematic
simulator lang=spectre
global 0
// Simulate with // top_globalmc_localmc // top_localmconly
include "/opt/technology/tsmc40nm_18/tsmcN40/../models/spectre/toplevel.scs" section=top_globalmc_localmc


// Library name: tsmc_resistances_test
// Cell name: resistances_test
// View name: schematic

// Poly resistor
// R0 (net02 0 0 ) rppolyl_m lr=100.0000u wr=2u multi=(1) m=1

// Required resistor
R1 (net02 0 0 ) rnwsti_m lr=10u wr=2u // multi=(1) m=1

V0 (net02 0) vsource type=pulse delay=5n val0=100.0m val1=3 rise=10n \
        fall=10n width=0

simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf
mc1 montecarlo numruns=100 seed=12345 variations=mismatch sampling=standard \
    donominal=yes scalarfile="../monteCarlo/mcdata" \
    paramfile="../monteCarlo/mcparam" saveprocessparams=yes \
    processparamfile="../monteCarlo/processParam" \
    processscalarfile="../monteCarlo/processData" savemismatchparams=yes \
    dependencymapfile="../monteCarlo/mismatchdependency" \
    dumpdependency=mismatch \
    dependencyscalarfile="../monteCarlo/compactmismatchdata" \
    dependencyparamfile="../monteCarlo/compactmismatchparam"  \
    paramdumpmode=yes savefamilyplots=yes savedatainseparatedir=yes \
    wfseparation=yes {
tran tran stop=50n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
export noExprs=oceanEval("0")
}
mcOptions options genmcdep=yes
save R1:1
saveOptions options save=allpub
